US04421550
2-[[(1-Methyl-5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, 2-propyl ester
A mixture of 0.7 grams (0.00486 mole) of 3-amino-1-methyl-5-methylthio-1H-1,2,4-triazole and 4.0 grams of 2-(isopropoxycarbonyl)benzenesulfonylisocyanate was stirred in 12 ml of dry methylene chloride at ambient temperature overnight. After addition of 4 ml of 1-chlorobutane, a white solid precipitated which was filtered, washed with 1-chlorobutane and dried, yield 1.3 grams, m.p. 192°-194°.

reactant | 3-amino-1-methyl-5-methylthio-1H-1,2,4-triazole | 0.00486 mole, 0.7 grams | NC1=NN(C(=N1)SC)C | C4H8N4S
reactant | 2-(isopropoxycarbonyl)benzenesulfonylisocyanate | 4.0 grams | C(C)(C)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C11H11NO5S
reactant | 1-chlorobutane | 4 ml | ClCCCC | C4H9Cl
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-[[(1-Methyl-5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, 2-propyl ester | CN1N=C(N=C1SC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC(C)C)C=CC=C1 | C15H19N5O5S2
